US04260755
6-(3-Fluorophenyl)-3-(methoxymethyl)-1,2,4-triazolo[4,3-b]pyridazine
As for Example 4, 6-(3-fluorophenyl)-3-hydrazinopyridazine (prepared in a manner similar to that described in Example 1) is reacted with methoxyacetyl chloride to give the product of the Example.

reactant | 6-(3-fluorophenyl)-3-hydrazinopyridazine | FC=1C=C(C=CC1)C1=CC=C(N=N1)NN | C10H9FN4
reactant | methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
product | 6-(3-Fluorophenyl)-3-(methoxymethyl)-1,2,4-triazolo[4,3-b]pyridazine | FC=1C=C(C=CC1)C=1C=CC=2N(N1)C(=NN2)COC | C13H11FN4O
